US07825278B2
Ethyl 2-chloro-α-[[(3-chloro-4-fluorophenyl)amino]methylene]-β-oxo-benzenepropionate
A solution of ethyl 2-chloro-α-[(dimethylamino)methylene]-β-oxo-benzenepropanoate (50 mg, 0.177 mmol) in 1 mL of EtOH was treated with neat 3-chloro-4-fluoroaniline (25.8 mg, 0.177 mmol). After stirring at rt until complete by TLC, the reaction was concentrated in vacuo. The residue was subjected to flash chromatography (1:1 EtOAc/hexanes), affording 42.6 mg (63%) of the product as a white solid, mp 96-102° C. 1H NMR (400 MHz, CDCl3 9:1 ratio of alkene isomers, major isomer NMR given) δ12.66 (d, 1H, J=12.8 Hz), 8.50 (d, 1H, J=13.2 Hz), 7.37-7.16 (m, 7H), 4.01 (q, 2H, J=7.1 Hz), 0.93 (t, 2H, J=7.1 Hz).

reactant | ethyl 2-chloro-α-[(dimethylamino)methylene]-β-oxo-benzenepropanoate | 0.177 mmol, 50 mg | ClC1=C(C=CC=C1)C(C(C(=O)OCC)=CN(C)C)=O | C14H16ClNO3
reactant | 3-chloro-4-fluoroaniline | 0.177 mmol, 25.8 mg | ClC=1C=C(N)C=CC1F | C6H5ClFN
solvent | EtOH | 1 mL | CCO | C2H6O
product | Ethyl 2-chloro-α-[[(3-chloro-4-fluorophenyl)amino]methylene]-β-oxo-benzenepropionate | 42.6 mg, 63% | ClC1=C(C=CC=C1)C(C(C(=O)OCC)=CNC1=CC(=C(C=C1)F)Cl)=O | C18H14Cl2FNO3
